US04298529
Formic acid (10 ml.), tetrahydrofuran (40 ml.) and water (10 ml.) were added to a solution of 7-[2-methoxyimino-3,3-ethylenedioxybutyramido]-3-(benzothiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2 g.) in N,N-dimethylformamide (10 ml.). Zinc powder (1.4 g.) was added to the stirred mixture at 0° to 2° C., and stirred at the same temperature for 1.5 hours. The reaction mixture was filtered, and the residue was washed with tetrahydrofuran. The filtrate and the washings were combined and concentrated in vacuo. The residue was diluted with water (50 ml.) and extracted with ethyl acetate (150 ml.). The extract was washed with water and extracted with an aqueous solution of sodium bicarbonate. Ethyl acetate (50 ml.) was added to the extract and acidified to pH 2.0 with 6 N hydrochloric acid. After the organic layer was separated, the aqueous layer was extracted with ethyl acetate (50 ml.). The ethyl acetate layers were combined, washed with water and saturated aqueous sodium chloride in turn, dried over magnesium sulfate and evaporated in vacuo. n-Hexane was added to the oily residue and the mixture was allowed to stand in a refrigerator overnight, and triturated. The precipitates were collected by filtration to give a mixture (0.5 g.) of 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-methylenecepham-4-carboxylic acid (syn isomer) and 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-methyl-3-cephem-4-carboxylic acid (syn isomer) (5:1).

reactant | Formic acid | 10 ml | C(=O)O | CH2O2
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | water | 10 ml | O | H2O
reactant | 7-[2-methoxyimino-3,3-ethylenedioxybutyramido]-3-(benzothiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC3=C(N2)C=CC=C3)C(=O)O)C1=O)C1(C)OCCO1 | C22H22N4O7S3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | Zinc | 1.4 g | [Zn] | Zn
product | 7-(2-methoxyimino-3,3-ethylenedioxybutyramido)-3-methylenecepham-4-carboxylic acid | 0.5 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)=C)C(=O)O)C1=O)C1(C)OCCO1 | C15H19N3O7S
